US06762321B2
15.2 g (0.1 mol) of vanilline, 20.5 g (0.12 mol) of benzyl bromide, 17.9 g (0.13 mol) of potassium carbonate and 150 ml of N,N-dimethylformamide were mixed and stirred at 50° C. for 2 hours. Water was added to the reaction mixture, which was followed by extracted with ethyl acetate, washed with 5% hydrochloric acid and then saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was washed with hexane and dried to give 23.1 g of 4-benzyloxy-3-methoxybenzaldehyde.

reactant | vanilline | 0.1 mol, 15.2 g | COC=1C=C(C=CC1O)C=O | C8H8O3
reactant | benzyl bromide | 0.12 mol, 20.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.13 mol, 17.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-benzyloxy-3-methoxybenzaldehyde | 23.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
